US07361678B2
A solution of dibenzofuran (0.5 mmol) in anhydrous DCM was cooled to 0° C. AlCl3 (1.5 eq., 0.75 mmol) was added followed by a slow addition of acetyl chloride (1.5 eq., 0.75 mmol). The reaction mixture was stirred at 0° C. for 2–3 h or until the completion of reaction. The product was extracted with DCM and washed with saturated sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate and concenterated in vacuo to give dibenzofuran-2-ylethan-2-one.

reactant | dibenzofuran | 0.5 mmol | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | AlCl3 | 0.75 mmol, 1.5 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 0.75 mmol, 1.5 eq. | C(C)(=O)Cl | C2H3ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | dibenzofuran-2-ylethan-2-one | C1=C(C=CC=2OC3=C(C21)C=CC=C3)CC=O | C14H10O2
